US06417212B1
B. 2-[4-Benzyloxy-2-(hydroxy-phenyl-methyl)-phenoxy]-2-methyl-propionic acid ethyl ester
4-Benzyloxy-2-(hydroxy-phenyl-methyl)-phenol (690 mg, 2.25 mmol) and Cs2CO3 (734 mg, 2.25 mmol) in DMF (7 mL) was treated with ethyl bromoisobutyrate (0.66 mL, 4.5 mmol) and heated at 55° C. for 16 h. Additional bromo ester (0.40 mL, 1.23 mmol) and Cs2CO3 (400 mg, 1.23 mmol) were added and the reaction mixture was heated for 40 h. The mixture was cooled and partitioned between ethyl acetate (30 mL) and H2O (10 mL). The organic layer was washed with brine (10 mL), dried (Na2SO4), and concentrated. The crude product was purified by flash chromatography using hexanes:ethyl acetate to give a pale yellow oil (615 mg, 65%): 1H NMR (400 MHz, CDCl3) δ1.21 (t, 3H, J=7.3 Hz), 1.39 (s, 3H), 1.43 (s, 3H), 4.19 (q, 2H, J=7.3 Hz), 4.97 (s 2H), 6.00 (s, 1H), 6.61 (d, 1H, J=8.8 Hz), 6.74 (dd, 2H, J=3.2, 9.0 Hz), 6.96 (d, 1H, J=2.9 Hz), 7.22-7.39 (m, 10).

reactant | 4-Benzyloxy-2-(hydroxy-phenyl-methyl)-phenol | 2.25 mmol, 690 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)O)C(C1=CC=CC=C1)O | C20H18O3
reactant | Cs2CO3 | 2.25 mmol, 734 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl bromoisobutyrate | 4.5 mmol, 0.66 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | Cs2CO3 | 1.23 mmol, 400 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 2-[4-Benzyloxy-2-(hydroxy-phenyl-methyl)-phenoxy]-2-methyl-propionic acid ethyl ester | 615 mg, 65% | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)C(C1=CC=CC=C1)O)=O | C26H28O5
